US06747176B2
A 500 ml flask equipped with a stirrer and gas inlet tube was initially charged at 10° C. with a mixture of 240 g (2 mol) of 1,1,1-trimethoxyethane and 1% of NaOCH3 (30%). Within 4 hours, 110 g of chlorine were introduced into the flask in gaseous form, and the internal temperature of the flask did not rise above 15° C. Once the entire amount of chlorine had been introduced into the flask, the mixture was worked-up by distillation. Using a distillation apparatus having approx. 5 theoretical plates, low boilers such as methanol and methyl acetate were removed in the first stages of distillation at a reflux ratio of 5:1. In the main fraction, 234 g of 2-chloro-1,1,1-trimethoxyethane in a purity of >99.0% were obtained at a reflux ratio of 2:1. This amount of product corresponds to a yield of approx. 76%.

reactant | 1,1,1-trimethoxyethane | 2 mol, 240 g | COC(C)(OC)OC | C5H12O3
reactant | NaOCH3 | O([Na])C
reactant | chlorine | 110 g | ClCl | Cl2
product | 2-chloro-1,1,1-trimethoxyethane | 234 g, yield of approx. 76% | ClCC(OC)(OC)OC | C5H11ClO3
